US04409214
To a solution of N-tert-butoxycarbonyl-2-(2-aminothiazol-4-yl)glycine (5.5 g) and bis(trimethylsilyl)acetamide (10.6 g) in ethyl acetate (55 ml) was added trifluoroacetic anhydride (12.6 g) at -20° C., and the mixture was stirred at -15° to -5° C. for an hour. After addition of ethyl acetate (100 ml) and water, the mixture was stirred for a while. To the separated ethyl acetate solution was added water (80 ml), followed by adjusting to pH 7 with a saturated aqueous solution of sodium bicarbonate. After separating out the aqueous layer, thereto was added ethyl acetate, followed by adjusting to pH 2 with 10% hydrochloric acid. The ethyl acetate layer was separated out, washed with an aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate and then evaporated to give N-tert-butoxycarbonyl-2-[2-(2,2,2-trifluoroacetamido)thiazol-4-yl]glycine (3.4 g).

reactant | N-tert-butoxycarbonyl-2-(2-aminothiazol-4-yl)glycine | 5.5 g | C(C)(C)(C)OC(=O)NC(C(=O)O)C=1N=C(SC1)N | C10H15N3O4S
reactant | bis(trimethylsilyl)acetamide | 10.6 g | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | trifluoroacetic anhydride | 12.6 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 55 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 80 ml | O | H2O
product | N-tert-butoxycarbonyl-2-[2-(2,2,2-trifluoroacetamido)thiazol-4-yl]glycine | 3.4 g | C(C)(C)(C)OC(=O)NC(C(=O)O)C=1N=C(SC1)NC(C(F)(F)F)=O | C12H14F3N3O5S
